US03949084
A mixture of 1,3-dimethyl-4-bromobenzene, 10.5 g. of m-methoxyphenol, 4.65 g. of cuprous oxide, 40 ml. of tetramethylurea, and 75 ml. of N-methylpyrrolidone is stirred at 165° for 96 hours. The resultant mixture is diluted with water and extracted with methylene chloride. The methylene chloride extracts are chromatographed on 300 g. of alumina with gradient elution using hexane:ether to give 1,3-dimethyl-4-(m-methoxyphenyloxy)-benzene.

reactant | 1,3-dimethyl-4-bromobenzene | CC1=CC(=C(C=C1)Br)C | C8H9Br
reactant | m-methoxyphenol | COC=1C=C(C=CC1)O | C7H8O2
reactant | tetramethylurea | CN(C(N(C)C)=O)C | C5H12N2O
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 1,3-dimethyl-4-(m-methoxyphenyloxy)-benzene | CC1=CC(=C(C=C1)OC1=CC(=CC=C1)OC)C | C15H16O2
